US05688795
Proceeding as in Example 26, but reacting 1-chloro-3-[4-(2-methoxyphenyl)-piperazin-1-yl]propane with 2-amino-5-chloro-N,N-dimethylbenzamide gave 5-chloro-2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylbenzamide hydrochloride, m.p. 100°-108° C.; Anal.: Calcd. for C23H31ClN4O2.(HCl)2.(H2O)0.75 : C, 57.38; H, 7.02; N, 11.65%; Found: C, 57.47; H, 6.94 ; N, 11.48%;

reactant | 1-chloro-3-[4-(2-methoxyphenyl)-piperazin-1-yl]propane | ClCCCN1CCN(CC1)C1=C(C=CC=C1)OC | C14H21ClN2O
reactant | 2-amino-5-chloro-N,N-dimethylbenzamide | NC1=C(C(=O)N(C)C)C=C(C=C1)Cl | C9H11ClN2O
product | 5-chloro-2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylbenzamide hydrochloride | Cl.ClC=1C=CC(=C(C(=O)N(C)C)C1)NCCCN1CCN(CC1)C1=C(C=CC=C1)OC | InChI=1S/C23H31ClN4O2.ClH/c1-26(2)23(29)19-17-18(24)9-10-20(19)25-11-6-12-27-13-15-28(16-14-27)21-7-4-5-8-22(21)30-3;/h4-5,7-10,17,25H,6,11-16H2,1-3H3;1H
